US06936608B2
A mixture of 4-bromopyridine hydrochloride (7.5 g, 38.6 mmol) and 2-fluorobenzeneboronic acid (6.75 g, 48 mmol) in tetrahydrofuran (80 ml) and 2 M sodium carbonate (58 ml) was degassed with nitrogen for 20 min then tetrakis(triphenylphosphine)palladium(0) (1.34 g, 1.2 mmol) was added and the reaction heated at reflux for 24 h. The mixture was cooled to ambient temperature then partitioned between ethyl acetate and 10% sodium carbonate. The organic layer was washed with water, then saturated sodium hydrogencarbonate, dried over anhydrous magnesium sulfate, filtered and pre-adsorbed onto silica. Purification by chromatography [silica gel, 20-40% EtOAc/isohexane (containing 0.5% triethylamine)] afforded 4-(2-fluorophenyl)pyridine as a yellow oil that crystallised on standing (6.26 g, 94%): 1H NMR (400 MHz, CDCl3) δ 7.17-7.22 (1H, m), 7.26 (1H, ddd, J 8, 8, 1 Hz), 7.38-7.44 (1H, m), 7.47-7.50 (3H, m), 8.68 (2H, d, J 4 Hz); MS (ES+) m/z 174 [M+H]+.

reactant | 4-bromopyridine hydrochloride | 38.6 mmol, 7.5 g | Cl.BrC1=CC=NC=C1
reactant | 2-fluorobenzeneboronic acid | 48 mmol, 6.75 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | sodium carbonate | 2 M, 58 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.2 mmol, 1.34 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2-fluorophenyl)pyridine | FC1=C(C=CC=C1)C1=CC=NC=C1 | C11H8FN
